US09034866B2
Ethyl 9-bromo-8-fluoro-4-oxo-[1]benzoxepino[5,4-d]thiazole-2-carboxylate (133 mg) was reacted with isopropylmagnesium bromide similarly to as described in the synthesis of 4-Hydroxy-9-(3-hydroxy-3-methyl-but-1-ynyl)-4-methyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo {e}azulene-2-carboxylic amide with non-critical modifications to afford ethyl 9-bromo-8-fluoro-4-hydroxy-4-isopropyl-5H-[1]benzoxepino[5,4-d]thiazole-2-carboxylate. Ethyl 9-bromo-8-fluoro-4-hydroxy-4-isopropyl-5H-[1]benzoxepino[5,4-d]thiazole-2-carboxylate (80 mg) was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford ethyl 8-fluoro-4-hydroxy-9-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-4-isopropyl-5H-[1]benzoxepino[5,4-d]thiazole-2-carboxylate which was directed subjected to General Procedure M to afford 12 mg and 13 mg (29% overall yield) after reverse phase purification then chiral separation. The absolute stereochemistry at the 4-hydroxyl substitution position for each isomer was not determined.

reactant | Ethyl 9-bromo-8-fluoro-4-hydroxy-4-isopropyl-5H-[1]benzoxepino[5,4-d]thiazole-2-carboxylate | 80 mg | BrC=1C(=CC2=C(C1)C=1N=C(SC1C(CO2)(C(C)C)O)C(=O)OCC)F | C17H17BrFNO4S
reactant | (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | ethyl 8-fluoro-4-hydroxy-9-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-4-isopropyl-5H-[1]benzoxepino[5,4-d]thiazole-2-carboxylate | FC1=CC2=C(C=C1C#C[C@]1(C(N(CC1)C)=O)O)C=1N=C(SC1C(CO2)(C(C)C)O)C(=O)OCC | C24H25FN2O6S
